US08350044B2
Preparation of N-Methylcarbamoylmethyl-Nicotinamide
A suspension of [(pyridine-3-carbonyl)-amino]-acetic acid methyl ester (1.5 g, 7.7 mmol) and methylamine (33 wt % in absolute ethanol, 3.86 mL, 38.6 mmol) in ethanol (8 mL) was heated at 55° C. in a Parr reactor for 6 h. The mixture was cooled and then concentrated under reduced pressure to yield the product as a iridescent beige plates (1.41 g, 94%): 1H NMR (300 MHz, DMSO-d6) δ 9.05 (d, J=2.2 Hz, 1H), 9.00 (t, J=5.8 Hz, 1H), 8.77 (d, J=4.0 Hz, 1H), 8.23 (br d, J=8.1 Hz, 1H), 7.90 (q, J=4.1 Hz, 1H), 7.53 (dd, J=7.7, 4.7 Hz, 1H), 3.86 (d, J=5.8 Hz, 2H), 2.61 (d, J=4.4 Hz, 3H); IR (KBr) 3314, 1641 cm−1; ESIMS m/z 194 (M+1).

reactant | [(pyridine-3-carbonyl)-amino]-acetic acid methyl ester | 7.7 mmol, 1.5 g | COC(CNC(=O)C=1C=NC=CC1)=O | C9H10N2O3
reactant | methylamine | 38.6 mmol, 3.86 mL | CN | CH5N
reactant | KBr | [K+].[Br-]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | N-Methylcarbamoylmethyl-Nicotinamide | CNC(=O)CNC(C1=CN=CC=C1)=O | C9H11N3O2
